US06939887B2
Synthesis of 3-[2-(diethylamino)ethyl]-2-oxo-7-(trifluoromethyl)-1-[2-(trifluoromethyl)benzyl]-2,3-dihydro-1H-benzimidazole-5-carbonitrile
A mixture of 3-[2-(diethylamino)ethyl]-2-oxo-7-(trifluoromethyl)-2,3-dihydro-1H-benzimidazole-5-carbonitrile (19.1 mg), 2-trifluoromethylbenzyl bromide (30.4 mg) and potassium carbonate (16.5 mg) in N,N-dimethylformamide (3 ml) was stirred with heating at 80° C. for 1.5 hours. To the mixture was further added 2-trifluoromethylbenzyl bromide (46.8 mg), and the mixture was stirred with heating at 80° C. for 1 hour. 2-Trifluoromethylbenzyl bromide (160.3 mg) and potassium carbonate (43.2 mg) were further added, and the mixture was stirred with heating 80° C. for 1 hour. The reaction mixture was concentrated in vacuo. The resultant residue was purified by preparative TLC (1 mm, 20×20 cm, chloroform:methanol=25:1) to give the title compound (2.8 mg, 10%).

reactant | 3-[2-(diethylamino)ethyl]-2-oxo-7-(trifluoromethyl)-2,3-dihydro-1H-benzimidazole-5-carbonitrile | 19.1 mg | C(C)N(CCN1C(NC2=C1C=C(C=C2C(F)(F)F)C#N)=O)CC | C15H17F3N4O
reactant | 2-trifluoromethylbenzyl bromide | 30.4 mg | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
reactant | potassium carbonate | 16.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-trifluoromethylbenzyl bromide | 46.8 mg | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
reactant | 2-Trifluoromethylbenzyl bromide | 160.3 mg | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
reactant | potassium carbonate | 43.2 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 3-[2-(diethylamino)ethyl]-2-oxo-7-(trifluoromethyl)-1-[2-(trifluoromethyl)benzyl]-2,3-dihydro-1H-benzimidazole-5-carbonitrile | 2.8 mg, 10% | C(C)N(CCN1C(N(C2=C1C=C(C=C2C(F)(F)F)C#N)CC2=C(C=CC=C2)C(F)(F)F)=O)CC | C23H22F6N4O
